US05432182
D. Preparation of 3-butyryl-4-chloro-7-benzoyloxymethyl-quinoline
3-Butyryl-7-benzoyloxymethyl-4(1H)-quinolone (10.42 g, 29.8 mmol) and phosphoryl chloride (60 ml) were refluxed for 1 hour, then evaporated, and the residue poured onto ice (300 g) with stirring. After neutralising with concentrated ammonia, the product was extracted into chloroform and the solution dried (Na2SO4) and evaporated to a solid. Trituration with ether gave the title compound (9.76 g), m.p. 66°-8°.

reactant | 3-Butyryl-7-benzoyloxymethyl-4(1H)-quinolone | 29.8 mmol, 10.42 g | C(CCC)(=O)C1=CNC2=CC(=CC=C2C1=O)COC(C1=CC=CC=C1)=O | C21H19NO4
reactant | phosphoryl chloride | 60 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-butyryl-4-chloro-7-benzoyloxymethyl-quinoline | 9.76 g | C(CCC)(=O)C=1C=NC2=CC(=CC=C2C1Cl)COC(C1=CC=CC=C1)=O | C21H18ClNO3
